US05075502
Preparation of N,N'-Bis[(2,3-dihydroxypropyl)-2-hydroxyethyl]-5-[N-(2-methoxyethyl)acetamido]-2,4,6-triiodoisophthalamide
This compound is prepared from 5-acetamido-N,N'-bis[(2,3-dihydroxypropyl)-2-hydroxyethyl]-2,4,6-triiodoisophthalamide, prepared as in Example 2, Step B, with 2-bromoethyl methyl ether (BrCH2CH2OCH3) in the same manner as described in Example 8.

reactant | 5-acetamido-N,N'-bis[(2,3-dihydroxypropyl)-2-hydroxyethyl]-2,4,6-triiodoisophthalamide | C(C)(=O)NC=1C(=C(C(=C(C(=O)NCC(O)CC(CO)O)C1I)I)C(=O)NCC(O)CC(CO)O)I | C20H28I3N3O9
reactant | 2-bromoethyl methyl ether | COCCBr | C3H7BrO
product | N,N'-Bis[(2,3-dihydroxypropyl)-2-hydroxyethyl]-5-[N-(2-methoxyethyl)acetamido]-2,4,6-triiodoisophthalamide | OC(CC(CNC(C1=C(C(C(=O)NCC(O)CC(CO)O)=C(C(=C1I)N(C(C)=O)CCOC)I)I)=O)O)CO | C23H34I3N3O10
